US04963566
To a solution of 8-(t-butyldimethylsilyloxymethyl)-4-methylene-1-ethyl-1,2,3,4-tetrahydroquinoline (2.04 g) in tetrahydrofuran (50 ml), 10M solution (3.2 m) of borane-dimethylsulfide complex in tetrahydrofuran was added dropwise with stirring under ice-cooling. After stirring the mixture for 2 hours at room temperature, water was added to the reaction mixture, and furthermore 3N aqueous solution of sodium hydroxide (10 ml) and 30% hydrogen peroxide (10 ml) were added thereto. After stirring for 2 hours at room temperature, the reaction mixture was subjected to salting-out and extracted with dichloromethane. After the extract was dried, the solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (3:1)]to give 8-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (1.98 g).

reactant | 8-(t-butyldimethylsilyloxymethyl)-4-methylene-1-ethyl-1,2,3,4-tetrahydroquinoline | 2.04 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)=C | C19H31NOSi
reactant | water | O | H2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.98 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)CO | C19H33NO2Si
